US07446121B2
To a solution of 7-[5-benzylcarbamoyl-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-heptanoic acid tert-butyl ester (0.103 g, 0.186 mmol) in MeOH (5 mL) was added 1.0 N NaOH (0.190 mL, 0.195 mmol; commercially available from Sigma Aldrich) and the reaction was stirred at 25° C. for 48 hr after which time the reaction was solvent was removed under reduced pressure. The resulting solid was then azeotroped toluene (3×100 mL) and triturated with diethyl ether to provide a light yellow solid that was dried under vacuum at 60° C. to afford (3R,5R)-7-[5-benzylcarbamoyl-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-heptanoic acid sodium salt (0.091 g, 94%): MS(APCI+): m/z498.2 (M+H); H-NMR (DMSO-d6) δ 8.55 (t, 1 H), 7.53-7.49 (m, 2 H), 7.33-7.13 (m, 7 H), 4.70 (bs, 1 H), 4.34 (d, 2 H), 3.63-3.57 (m, 1 H), 3.45-3.42 (m, 1 H), 2.74-2.66 (m, 1 H), 2.58-2.50 (m, 1 H), 1.95-1.90 (m, 1 H), 1.75-1.69 (m, 1 H), 1.40-1.10 (m, 10 H).

reactant | 7-[5-benzylcarbamoyl-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-heptanoic acid tert-butyl ester | 0.186 mmol, 0.103 g | C(C)(C)(C)OC(CC(CC(CCC=1N(N=C(C1C(C)C)C(NCC1=CC=CC=C1)=O)C1=CC=C(C=C1)F)O)O)=O | C31H40FN3O5
reactant | NaOH | 1.0 N | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | (3R,5R)-7-[5-benzylcarbamoyl-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-heptanoic acid sodium salt | 0.091 g, 94% | [Na+].C(C1=CC=CC=C1)NC(=O)C=1C(=C(N(N1)C1=CC=C(C=C1)F)CC[C@H](C[C@H](CC(=O)[O-])O)O)C(C)C | InChI=1S/C27H32FN3O5.Na/c1-17(2)25-23(13-12-21(32)14-22(33)15-24(34)35)31(20-10-8-19(28)9-11-20)30-26(25)27(36)29-16-18-6-4-3-5-7-18;/h3-11,17,21-22,32-33H,12-16H2,1-2H3,(H,29,36)(H,34,35);/q;+1/p-1/t21-,22-;/m1./s1
